US06949648B2
7-Fluoro-1H-indol-2,3-dione
A solution of N-(2-fluorophenyl)-2-(hydroxyimino)acetamide (35.0 g, 192 mmol) in sulfuric acid (150 mL) was heated and stirred at 70° C. for 45 minutes. The solution was allowed to cool to room temperature and poured into iced water, and organic matter was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting crystals were collected by filtration to give the title compound (14.6 g, 46% yield).

reactant | N-(2-fluorophenyl)-2-(hydroxyimino)acetamide | 192 mmol, 35.0 g | FC1=C(C=CC=C1)NC(C=NO)=O | C8H7FN2O2
reactant | water | O | H2O
solvent | sulfuric acid | 150 mL | S(O)(O)(=O)=O | H2O4S
product | 7-Fluoro-1H-indol-2,3-dione | 14.6 g, 46% yield | FC=1C=CC=C2C(C(NC12)=O)=O | C8H4FNO2
